US07994326B2
Synthesis of tert-butyl 3-fluorophenethyl(2-oxoethyl)carbamate (XII-8).
To a suspension of Dess-Martin periodinane (0.51 g, 0.0012 mol) in anhydrous CH2Cl2 (10 mL) was added a solution of tert-butyl 3-fluorophenethyl(2-hydroxyethyl)carbamate (V-5b, 0.28 g, 0.001 mol) in anhydrous CH2Cl2 (5 mL) via a cannula, and the reaction mixture was stirred at room temperature for 18 h under a N2 atmosphere. Na2S2O3 (1 M, 10 mL) was then added to the reaction mixture. After being stirred for 10 min, the organic layer was separated. The aqueous layer was extracted with CH2Cl2 (15 mL×3). The combined organic layers were washed with 5% aqueous NaHCO3 (20 mL) and brine (20 mL), and dried over Na2SO4. The solvent was evaporated. The residue was then purified by column chromatography (silica gel, hexane:EtOAc=7.5:2.5) to afford a colorless oil (XII-8, 0.24 g, 83%).

reactant | Dess-Martin periodinane | 0.0012 mol, 0.51 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 3-fluorophenethyl(2-hydroxyethyl)carbamate | 0.001 mol, 0.28 g | FC=1C=C(CCN(C(OC(C)(C)C)=O)CCO)C=CC1 | C15H22FNO3
reactant | Na2S2O3 | 1 M, 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-fluorophenethyl(2-oxoethyl)carbamate | FC=1C=C(CCN(C(OC(C)(C)C)=O)CC=O)C=CC1 | C15H20FNO3
